US07531532B2
Morpholine-4-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide
Morpholine-4-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide (107 mg) was dissolved in ethanol (5 ml)-water (1 ml), and then electrolytic iron powder (110 mg) and ammonium chloride (220 mg) were added thereto, followed by heating under reflux for 30 min. The reaction mixture was cooled down to room temperature, and ethyl acetate-tetrahydrofuran (1:1) was then added thereto, followed by stirring. The reaction mixture was filtered through celite to remove an insoluble portion, which was washed with ethyl acetate and water. The organic layer of the filtrate was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:1). Fractions containing the target compound were concentrated under a reduced pressure, and dried in vacuum to provide the titled compound (82.4 mg, 85.2%) as a yellow solid.

reactant | Morpholine-4-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 107 mg | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C15H14FN5O5
reactant | ammonium chloride | 220 mg | [Cl-].[NH4+]
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | iron | 110 mg | [Fe] | Fe
product | Morpholine-4-carboxylic acid [6-(4-amino-2-fluorophenoxy)pyrimidin-4-yl]amide | 82.4 mg, 85.2% | NC1=CC(=C(OC2=CC(=NC=N2)NC(=O)N2CCOCC2)C=C1)F | C15H16FN5O3
